US04521422
Phenyl[7-(3-pyridinyl)pyrazolo[1,5-a]pyrimidin-3-yl]methanone
A mixture of 0.02 mole of 3-chloro-3-(3-pyridinyl)-2-propenal and 0.02 mole of (3-amino-1H-pyrazol-4-yl)phenyl-methanone in 25 ml of glacial acetic acid was refluxed for 5 hours. The solvent was removed and the product isolated as described in Example 1, giving the desired product as crystals, mp 202°-203° C.

reactant | 3-chloro-3-(3-pyridinyl)-2-propenal | 0.02 mole | ClC(=CC=O)C=1C=NC=CC1 | C8H6ClNO
reactant | (3-amino-1H-pyrazol-4-yl)phenyl-methanone | 0.02 mole | NC1=NNC=C1C(=O)C1=CC=CC=C1 | C10H9N3O
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | Phenyl[7-(3-pyridinyl)pyrazolo[1,5-a]pyrimidin-3-yl]methanone | C1(=CC=CC=C1)C(=O)C=1C=NN2C1N=CC=C2C=2C=NC=CC2 | C18H12N4O
